US07456175B2
4-(4-Cyclopentyl-piperazin-1-yl)-pyridin-2-ylamine
A mixture of 5.84 g (22 mmol) 1-(2-chloro-pyridin-4-yl)-4-cyclopentyl-piperazine, 0.8 g copper powder in 41 ml 7M ammonia in methanol was heated to 150° C. for 18 h. After evaporation to dryness the residue was purified on silica eluting with a gradient formed from dichloromethane/methanol and NEt3. The evaporation of the combined product fractions yielded 1.29 g (24%) of the title compound as yellowish solid. (m/e): 247.3 (MH+; 100%).

reactant | 1-(2-chloro-pyridin-4-yl)-4-cyclopentyl-piperazine | 22 mmol, 5.84 g | ClC1=NC=CC(=C1)N1CCN(CC1)C1CCCC1 | C14H20ClN3
reactant | ammonia | 7M, 41 ml | N | H3N
solvent | methanol | CO | CH4O
catalyst | copper | 0.8 g | [Cu] | Cu
product | 4-(4-Cyclopentyl-piperazin-1-yl)-pyridin-2-ylamine | 1.29 g, 24% | C1(CCCC1)N1CCN(CC1)C1=CC(=NC=C1)N | C14H22N4
